US06521666B1
A solution of di-tert-butyl dicarbonate (1.39 g) in dioxane (15 mL) was added dropwise to an ice-cold solution of 4-amino-2-chlorobenzoic acid (1.0 g) in 1N NaOH (12.8 mL). The mixture was allowed to warm to room temperature and stirred overnight. Dioxane was removed and the aqueous solution was extracted with Et2O. The aqueous solution was acidified with 1N HCl to pH ˜2. The precipitated solid was collected by filtration, washed with 1N HCl and water, and dried under vacuum to yield 4-(tert-butoxycarbonylamino)-2-chlorobenzoic acid (1.13 g). ESMS: m/z 294 (MH+).

reactant | di-tert-butyl dicarbonate | 1.39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-amino-2-chlorobenzoic acid | 1.0 g | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 12.8 mL | [OH-].[Na+]
product | 4-(tert-butoxycarbonylamino)-2-chlorobenzoic acid | 1.13 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=O)O)C=C1)Cl | C12H14ClNO4
